US08633173B2
A mixture of 1-bromo-4-nitrobenzene (400 mg, 2.00 mmol), tetrakis(triphenylphosphine)palladium(0) (120 mg, 0.20 mmol) and cesium carbonate (734 mg, 2.2 mmol) in a 30 mL microwave vial was purged and backfilled with nitrogen. Tetrahydrofuran (20 mL) was added followed by diethyl phosphite (0.360 mL, 2.8 mmol). The mixture was vortexed, then microwaved for 45 minutes at 120° C. Reaction was repeated three times to achieve total scale then the combined reaction mixtures were purified via chromatography (120 g silica gel 5%->75% ethyl acetate in hexane). (4-Nitro-phenyl)-phosphonic acid diethyl ester isolated as a light yellow oil (969 mg, 47%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.35 (d, J=8.0 Hz, 2H), 7.16 (s, 1H), 5.93 (s, 2H), 3.40 (s, 4H), 2.36 (s, 4H), 2.20 (s, 3H), 8.05-7.95 (m, 2H), 4.09 (m, 4H), 1.25 (t, J=13.8, 7.4 Hz, 6H).

reactant | 1-bromo-4-nitrobenzene | 2.00 mmol, 400 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | cesium carbonate | 2.2 mmol, 734 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethyl phosphite | 2.8 mmol, 0.360 mL | P(OCC)(OCC)[O-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.20 mmol, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-Nitro-phenyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14NO5P
